### PR TITLE
feat(Analysis/BoxIntegral/Basic): a bounded, a.e. continuous function is integrable on a box

### PR DESCRIPTION
**Pull request by js2357**
See #13968 instead for the current version.

Prove that a function that is bounded and a.e. continuous within a box is integrable on that box. This generalizes integrable_of_continuousOn.

As an intermediate step, define the oscillation of a function at a point x (and oscillationWithin for the oscillation at x within a specific subset). Also prove some lemmas about oscillation, namely that oscillation is 0 at a point if and only if the function is continuous there, and a statement about uniformity of oscillation on a compact set (with versions for oscillation and oscillationWithin).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/BoxIntegral/Basic.lean [hunk 1]
```diff
@@ -669,13 +669,186 @@ end Integrable
...
 
+/-!
+### Oscillation
+-/
+
+section oscillation
+
+open EMetric
+
+/-- The oscillation of `f` at `x`. -/
```
Comment (xroblot) [inline Mathlib/Analysis/BoxIntegral/Basic.lean:680]: You should probably move all the results about `oscillation` to a new file, say`Analysis.Oscillation`. Then, you can generalize the results to `f : E \to F` with `E` a `TopologicalSpace E` and `F` a `PseudoEMetricSpace` or `MetricSpace` from my experience.

File: Mathlib/Analysis/BoxIntegral/Basic.lean [hunk 2]
```diff
@@ -669,13 +669,186 @@ end Integrable
...
+noncomputable def oscillation (f : ℝⁿ → E) (x : ℝⁿ) : ENNReal :=
+  ⨅ S ∈ (𝓝 x).map f, EMetric.diam S
+
+/-- The oscillation of `f` at `x` is 0 whenever `f` is continuous at `x`. -/
+theorem oscillation_zero_of_continuousAt {f : ℝⁿ → E} {x : ℝⁿ} (hf : ContinuousAt f x) :
```
Comment (xroblot) [inline Mathlib/Analysis/BoxIntegral/Basic.lean:685]: This should be an equivalence

File: Mathlib/Analysis/BoxIntegral/Basic.lean [hunk 3]
```diff
@@ -669,13 +669,186 @@ end Integrable
...
 /-!
 ### Integrability conditions
 -/
 
+open Prepartition EMetric
 
 variable (l)
 
+/-- A function that is bounded and a.e. continuous on a box `I` is integrable on `I`. -/
+theorem integrable_of_bounded_and_ae_continuous (l : IntegrationParams) [CompleteSpace E]
```
Comment (xroblot) [inline Mathlib/Analysis/BoxIntegral/Basic.lean:749]: Can you make sure the arguments are in the same order as in `integrable_of_continuousOn`? I don't think it's the case at the moment.

File: Mathlib/Analysis/BoxIntegral/Basic.lean [hunk 4]
```diff
@@ -669,13 +669,186 @@ end Integrable
...
+    {I : Box ι} {f : ℝⁿ → E} (hb : ∃ C : ℝ, ∀ x ∈ Box.Icc I, ‖f x‖ ≤ C) (μ : Measure ℝⁿ)
+    [IsLocallyFiniteMeasure μ] (hc : ∀ᵐ x ∂μ, ContinuousAt f x) :
+    Integrable I l f μ.toBoxAdditive.toSMul := by
+  refine' integrable_iff_cauchy_basis.2 fun ε ε0 ↦ _
```
Comment (xroblot) [inline Mathlib/Analysis/BoxIntegral/Basic.lean:753]: Could you had some comments about the different steps of the proof?

**Comment by xroblot** [comment]
It would be nice if you could also add the equivalent of [MeasureTheory.ContinuousOn.hasBoxIntegral](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/BoxIntegral/Integrability.html#MeasureTheory.ContinuousOn.hasBoxIntegral) for this case.

File: Mathlib/Analysis/BoxIntegral/Basic.lean [hunk 5]
```diff
@@ -669,13 +669,186 @@ end Integrable
...
+
+/-- The oscillation of `f` at `x` is 0 whenever `f` is continuous at `x`. -/
+theorem oscillation_zero_of_continuousAt {f : ℝⁿ → E} {x : ℝⁿ} (hf : ContinuousAt f x) :
+    oscillation f x = 0 := by
+  refine le_antisymm (ENNReal.le_of_forall_pos_le_add fun ε hε _ ↦ ?_) (zero_le _)
+  rw [zero_add]
+  have : EMetric.ball (f x) (ε / 2) ∈ (𝓝 x).map f :=
+    hf <| EMetric.ball_mem_nhds _ (by simp [ne_of_gt hε])
+  refine (biInf_le EMetric.diam this).trans (le_of_le_of_eq diam_ball ?_)
+  refine (ENNReal.mul_div_cancel' ?_ ?_) <;> norm_num
```
Comment (xroblot) [inline Mathlib/Analysis/BoxIntegral/Basic.lean:692]:
```suggestion
  exact (ENNReal.mul_div_cancel' ?_ ?_) <;> norm_num
```

File: Mathlib/Analysis/BoxIntegral/Basic.lean [hunk 6]
```diff
@@ -669,13 +669,186 @@ end Integrable
...
+
+/-- If `oscillation f x < ε` at every `x` in a compact set `K`, then there exists `δ > 0` such
+that the oscillation of `f` on `Metric.ball x δ` is less than `ε` for every `x` in `K`. -/
+theorem uniform_oscillation_of_compact {K : Set ℝⁿ} (comp : IsCompact K) (f : ℝⁿ → E)
+    (ε : ENNReal) (hK : ∀ x ∈ K, oscillation f x < ε) :
```
Comment (xroblot) [inline Mathlib/Analysis/BoxIntegral/Basic.lean:697]:
```suggestion
theorem uniform_oscillation_of_compact {K : Set ℝⁿ} (comp : IsCompact K) {f : ℝⁿ → E}
    {: ENNReal} (hK : ∀ x ∈ K, oscillation f x < ε) :
```

`f` and `ε` can be implicit here

Comment (j-loreaux) [reply Mathlib/Analysis/BoxIntegral/Basic.lean:697]: @xroblot I think you still want the `ε` here, even if it's implicit.

Comment (xroblot) [reply Mathlib/Analysis/BoxIntegral/Basic.lean:697]: Yes, you're right

File: Mathlib/Analysis/BoxIntegral/Basic.lean (hunk 3 above)
Comment (js2357) [reply Mathlib/Analysis/BoxIntegral/Basic.lean:749]: I think the only change in the order is that now hc is introduced after mu because it depends on mu.

File: Mathlib/Analysis/BoxIntegral/Basic.lean (hunk 5 above)
Comment (js2357) [reply Mathlib/Analysis/BoxIntegral/Basic.lean:692]: I don't think the suggested change works. It could be changed to 

`exact ENNReal.mul_div_cancel' (by norm_num) (by norm_num)`

if that's considered preferable.

Comment (xroblot) [reply Mathlib/Analysis/BoxIntegral/Basic.lean:692]: Yes, that's what I meant. Sorry about that.

**Comment by xroblot** [comment]
Could you merge with Mathlib to resolve the conflict? I was busy grading copies lately but I should be able to have another look at this PR today or tomorrow

File: Mathlib/Analysis/Oscillation.lean [hunk 7]
```diff
@@ -0,0 +1,136 @@
...
+    obtain ⟨S, hS, Sε⟩ := ε0
+    refine Filter.mem_of_superset hS (fun y hy ↦ lt_of_le_of_lt ?_ Sε)
+    exact edist_le_diam_of_mem (Set.mem_preimage.1 hy) <|
+            Set.mem_preimage.1 (mem_of_mem_nhdsWithin xD hS)
+  · intro hf
+    refine le_antisymm (ENNReal.le_of_forall_pos_le_add fun ε hε _ ↦ ?_) (zero_le _)
+    rw [zero_add]
+    have : ball (f x) (ε / 2) ∈ (𝓝[D] x).map f := hf <| ball_mem_nhds _ (by simp [ne_of_gt hε])
+    refine (biInf_le diam this).trans (le_of_le_of_eq diam_ball ?_)
+    exact (ENNReal.mul_div_cancel' (by norm_num) (by norm_num))
```
Comment (xroblot) [inline Mathlib/Analysis/Oscillation.lean:67]:
```suggestion
  refine ⟨fun hf ↦ EMetric.tendsto_nhds.mpr (fun ε ε0 ↦ ?_), fun hf ↦ ?_⟩
  · simp_rw [← hf, oscillationWithin, iInf_lt_iff] at ε0
    obtain ⟨S, hS, Sε⟩ := ε0
    refine Filter.mem_of_superset hS (fun y hy ↦ lt_of_le_of_lt ?_ Sε)
    exact edist_le_diam_of_mem (Set.mem_preimage.1 hy) <|
            Set.mem_preimage.1 (mem_of_mem_nhdsWithin xD hS)
  · refine le_antisymm (ENNReal.le_of_forall_pos_le_add fun ε hε _ ↦ ?_) (zero_le _)
    rw [zero_add]
    have : ball (f x) (ε / 2) ∈ (𝓝[D] x).map f := hf <| ball_mem_nhds _ (by simp [ne_of_gt hε])
    refine (biInf_le diam this).trans (le_of_le_of_eq diam_ball ?_)
    exact (ENNReal.mul_div_cancel' (by norm_num) (by norm_num))
```

File: Mathlib/Analysis/Oscillation.lean [hunk 8]
```diff
@@ -0,0 +1,136 @@
...
+    use ENNReal.ofReal ((a - r) / 2), by simp [ar]
+    intro y hy
+    apply ht
+    use a - (a - r) / 2, by linarith
+    refine le_trans (diam_mono (Set.image_mono fun z hz ↦ ?_)) ha
+    rw [EMetric.mem_ball] at *
+    refine ⟨?_, hz.2⟩
+    refine lt_of_le_of_lt (edist_triangle z y x) (lt_of_lt_of_eq (ENNReal.add_lt_add hz.1 hy) ?_)
+    rw [← ENNReal.ofReal_add (by linarith) (by linarith)]
+    simp
```
Comment (xroblot) [inline Mathlib/Analysis/Oscillation.lean:95]:
```suggestion
  have S_open : ∀ r > 0, IsOpen (S r) := by
    refine fun r _ ↦ EMetric.isOpen_iff.mpr fun x ⟨a, ar, ha⟩ ↦
      ⟨ENNReal.ofReal ((a - r) / 2), by simp [ar], ?_⟩
    refine fun y hy ↦ ⟨a - (a - r) / 2, by linarith,
      le_trans (diam_mono (Set.image_mono fun z hz ↦ ?_)) ha⟩
    refine ⟨lt_of_le_of_lt (edist_triangle z y x) (lt_of_lt_of_eq (ENNReal.add_lt_add hz.1 hy) ?_),
      hz.2⟩
    rw [← ENNReal.ofReal_add (by linarith) (by linarith), sub_add_cancel]
```

File: Mathlib/Analysis/BoxIntegral/Basic.lean [hunk 9]
```diff
@@ -673,44 +674,169 @@ open MeasureTheory
...
+    [IsLocallyFiniteMeasure μ]
+    (hc : ∀ᵐ x ∂(μ.restrict (Box.Icc I)), ContinuousWithinAt f (Box.Icc I) x) :
+    Integrable I l f μ.toBoxAdditive.toSMul := by
+  /- We prove that f is integrable by proving that we can ensure that the integralSums over any
+     two tagged prepartitions π₁ and π₂ can be made ε-close by making the partitions
+     sufficiently fine.
+
+     Start by defining some constants C, ε₁, ε₂ that will be useful later. -/
+  refine' integrable_iff_cauchy_basis.2 fun ε ε0 ↦ _
+  rcases exists_pos_mul_lt ε0 (2 * μ.toBoxAdditive I) with ⟨ε₁, ε₁0, hε₁⟩
```
Comment (xroblot) [inline Mathlib/Analysis/BoxIntegral/Basic.lean:693]:
```suggestion
  refine integrable_iff_cauchy_basis.2 fun ε ε0 ↦ ?_
  rcases exists_pos_mul_lt ε0 (2 * μ.toBoxAdditive I) with ⟨ε₁, ε₁0, hε₁⟩
```

File: Mathlib/Analysis/BoxIntegral/Basic.lean [hunk 10]
```diff
@@ -673,44 +674,169 @@ open MeasureTheory
...
+  have : ∀ x ∈ (Box.Icc I \ U), oscillationWithin f (Box.Icc I) x < (ENNReal.ofReal ε₁) := by
+    intro x hx
+    suffices oscillationWithin f (Box.Icc I) x = 0 by rw [this]; exact ENNReal.ofReal_pos.2 ε₁0
+    simpa [oscillationWithin_zero_iff_continuousWithinAt, D, hx.1] using hx.2 ∘ (fun a ↦ UD a)
+  obtain ⟨r, r0, hr⟩ := uniform_oscillationWithin_of_compact comp this
+
+  /- We prove the claim for partitions π₁ and π₂ subordinate to r/2, by writing the difference as
+     an integralSum over π₁ ⊓ π₂ and considering separately the boxes of π₁ ⊓ π₂ which are/aren't
+     fully contained within U. -/
+  refine' ⟨fun _ _ ↦ ⟨r / 2, half_pos r0⟩, fun _ _ _ ↦ rfl, fun c₁ c₂ π₁ π₂ h₁ h₁p h₂ h₂p ↦ _⟩
```
Comment (xroblot) [inline Mathlib/Analysis/BoxIntegral/Basic.lean:725]:
```suggestion
  refine ⟨fun _ _ ↦ ⟨r / 2, half_pos r0⟩, fun _ _ _ ↦ rfl, fun c₁ c₂ π₁ π₂ h₁ h₁p h₂ h₂p ↦ ?_⟩
```

**Comment by xroblot** [comment]
I am not at all in expert in this domain so I cannot really comment on the math. The code we wrote is really good but sometimes a little less concise than the style used in Mathlib. I have done some suggestions in that direction but it is up to you to accept those or not or to modify them according to your own style.

**Comment by js2357** [comment]
I wouldn't really consider myself an expert in the area either, but I doubt that there's going to be a substantially easier way to prove this. 

I accepted all the suggestions.

**Comment by xroblot** [comment]
> I wouldn't really consider myself an expert in the area either, but I doubt that there's going to be a substantially easier way to prove this.
> 
> I accepted all the suggestions.

👍 

At this point, I'll suggest that you make a post on Zulip in the `PR reviews` stream so that other people can have a look at this PR.

**Review by xroblot — APPROVED** [review]

File: Mathlib/Analysis/Oscillation.lean [hunk 11]
```diff
@@ -0,0 +1,125 @@
...
+
+/-- The oscillation of `f` at `x` is 0 if and only if `f` is continuous at `x`. -/
+theorem oscillation_zero_iff_continuousAt [TopologicalSpace E] (f : E → F) (x : E) :
+    oscillation f x = 0 ↔ ContinuousAt f x := by
+  rw [← oscillationWithin_univ_eq_oscillation, ← continuousWithinAt_univ f x]
+  exact oscillationWithin_zero_iff_continuousWithinAt f (Set.mem_univ x)
+
+/-- If `oscillationWithin f D x < ε` at every `x` in a compact set `K`, then there exists `δ > 0`
+such that the oscillation of `f` on `ball x δ ∩ D` is less than `ε` for every `x` in `K`. -/
+theorem uniform_oscillationWithin_of_compact [PseudoEMetricSpace E] {K : Set E} (comp : IsCompact K)
```
Comment (PatrickMassot) [inline Mathlib/Analysis/Oscillation.lean:73]: This should be named `IsCompact.uniform_oscillationWithin` so that it can be used using generalized projection notation (aka dot notation).

File: Mathlib/Analysis/BoxIntegral/Basic.lean [hunk 12]
```diff
@@ -673,44 +674,169 @@ open MeasureTheory
...
+open Prepartition EMetric
 
 variable (l)
 
+/-- A function that is bounded and a.e. continuous on a box `I` is integrable on `I`. -/
+theorem integrable_of_bounded_and_ae_continuousWithinAt (l : IntegrationParams) [CompleteSpace E]
+    {I : Box ι} {f : ℝⁿ → E} (hb : ∃ C : ℝ, ∀ x ∈ Box.Icc I, ‖f x‖ ≤ C) (μ : Measure ℝⁿ)
+    [IsLocallyFiniteMeasure μ]
+    (hc : ∀ᵐ x ∂(μ.restrict (Box.Icc I)), ContinuousWithinAt f (Box.Icc I) x) :
+    Integrable I l f μ.toBoxAdditive.toSMul := by
```
Comment (PatrickMassot) [inline Mathlib/Analysis/BoxIntegral/Basic.lean:686]: This proof is really long and is split into several `have`. Are you sure you cannot split off lemmas?

Also there are lots of fully qualified names. Can’t you open some name spaces?

File: Mathlib/Analysis/Oscillation.lean (hunk 11 above)
Comment (js2357) [reply Mathlib/Analysis/Oscillation.lean]: Done. I also added ContinuousWithinAt.oscillationWithin_eq_zero and ContinuousAt.oscillation_eq_zero so those can be accessed with dot notation also, and I tried to pick nicer names for a few other theorems in that file.

File: Mathlib/Analysis/BoxIntegral/Basic.lean (hunk 12 above)
Comment (js2357) [reply Mathlib/Analysis/BoxIntegral/Basic.lean:686]: I opened some more name spaces. I think that's a good change.

I had already thought about trying to split off some lemmas to make the proof shorter, but I don't really see a good place to do it. I think the big `have`s all rely on a lot of specific details of the proof; I think any gain in making the main proof a little shorter would be outweighed by the lemma being somewhat unmotivated out of context. But I'm open to suggestions if you have a good idea.

 I turned the last `have` into a `suffices`, which I think makes the end of the proof a little more readable.

**Comment by js2357** [comment]
The latest version reduces the proof of the main theorem by about 20 lines of code, to try to address the comment about the proof being a little too long. (The ideas of the proof are not changed, only reorganized.) I think the reorganization also keeps the indentation under control better, so what's left is hopefully more readable.

**Comment by xroblot** [comment]
Could you please merge with master to solve the conflict. Eventually, this PR will move up the PR queue and will get a review but it needs to be without conflict for that.

**Comment by js2357** [comment]
> Could you please merge with master to solve the conflict. Eventually, this PR will move up the PR queue and will get a review but it needs to be without conflict for that.

The new version of this is at #13968 -- that's the one that should be reviewed. I'm only keeping this PR alive for now to preserve the discussion here.

**Comment by xroblot** [comment]
Right, sorry. I got confused. I'll change the tag to `WIP` on this PR then to avoid any further confusion.

**Comment by jcommelin** [comment]
Since #13968 has been merged, I guess this one can be closed, right? If not, please reopen, and bring the PR up to date.
